US07612114B2
To a solution of 3-fluoro-4-hydroxybenzoic acid ethyl ester (1.5 g) in dichloromethane (50 ml) was added pyridine (1 ml) on an ice bath, trifluoromethanesulfonic anhydride (1.5 ml) was added dropwise thereto followed by stirring overnight at room temperature. Water was added thereto followed by stirring, and the solution was extracted with ethyl acetate, then sequentially washed with water and brine, and dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo to provide 3-fluoro-4-trifluoromethanesulfonyloxybenzoic acid ethyl ester. Synthesized from this compound (2.6 g) and 1-prop-2-ynylpiperidine (2.0 g) according to an analogous synthetic method to Preparation Example 45, 3-fluoro-4-(3-piperidin-1-ylprop-1-ynyl)benzoic acid ethyl ester (2.3 g) was stirred in methanol (40 ml), to which was added 10% palladium-activated charcoal (500 mg), and the solution was stirred overnight at room temperature under a hydrogen atmosphere at ambient pressure. Obtained after filtration through celite pad and after the solvent was evaporated in vacuo, 3-fluoro-4-(3-piperidin-1-ylpropyl)benzoic acid ethyl ester (1.8 g) was stirred in ethanol (20 ml), to which was added an aqueous solution of 2N sodium hydroxide (10 ml), and the solution was refluxed for 1 hour. Ethanol was evaporated in vacuo, water was added thereto followed by stirring, and the solid that was precipitated by adding 2N hydrochloric acid (12 ml) was filtered and collected to provide the title compound (2.0 g).

reactant | 3-fluoro-4-hydroxybenzoic acid ethyl ester | 1.5 g | C(C)OC(C1=CC(=C(C=C1)O)F)=O | C9H9FO3
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.5 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-fluoro-4-trifluoromethanesulfonyloxybenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)F)=O | C10H8F4O5S
